US09260429B2
(B) N-methyl-2-(5-methyl-1-(2-(6-methylpyridin-3-yl)ethyl)-1H-indol-3-yl)ethanamine
The title compound was prepared by General Method 3. 1-(2-(6-methylpyridin-3-yl)ethyl)-1-p-tolylhydrazine (250 mg) was suspended in water (2 mL) and 28% aqueous HCl (0.135 mL) was added. 4,4-diethoxy-N-methylbutan-1-amine (0.18 g) was added to the resulting solution and the reaction mixture was heated to 60-80° C. and an additional 28% HCl (0.135 mL) was added and the reaction mixture was heated for additional 3 h. The reaction mixture was concentrated under reduced pressure and the residue was purified by silica gel chromatography (eluent EtOAc/EtOH/NH3: 7/3/1) to obtain the product.

reactant | 1-(2-(6-methylpyridin-3-yl)ethyl)-1-p-tolylhydrazine | 250 mg | CC1=CC=C(C=N1)CCN(N)C1=CC=C(C=C1)C | C15H19N3
reactant | HCl | 0.135 mL | Cl | ClH
reactant | 4,4-diethoxy-N-methylbutan-1-amine | 0.18 g | C(C)OC(CCCNC)OCC | C9H21NO2
reactant | HCl | 0.135 mL | Cl | ClH
solvent | water | 2 mL | O | H2O
product | N-methyl-2-(5-methyl-1-(2-(6-methylpyridin-3-yl)ethyl)-1H-indol-3-yl)ethanamine | CNCCC1=CN(C2=CC=C(C=C12)C)CCC=1C=NC(=CC1)C | C20H25N3
